US07427613B2
(2,3-Dichlorobenzyl)cyclopropylamine
Synthesized according to typical procedure J from 2,3-dichlorobenzaldehyde and cyclopropylamine.

reactant | 2,3-dichlorobenzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2,3-Dichlorobenzyl)cyclopropylamine | ClC1=C(CNC2CC2)C=CC=C1Cl | C10H11Cl2N
